US05998463
Preparation 5 3-Nitro-N-phenyl-benzamide.
To a cooled (0° C.) solution of aniline (17 g, 180 mmol) and triethylamine (27 mL, 190 mmol) in dichloromethane (100 mL) was added a solution of 3-nitrobenzoyl chloride (30 g, 160 mmol) in dichloromethane (60 mL). The mixture was stirred for 15 min at 0° C. then overnight at room temperature. It was then poured into saturated sodium bicarbonate (1 L) and stirred vigorously for 15 min. The precipitate was collected, washed with water and dried (40 g, 100%).

reactant | aniline | 180 mmol, 17 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 190 mmol, 27 mL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 160 mmol, 30 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | sodium bicarbonate | 1 L | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 3-Nitro-N-phenyl-benzamide | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H10N2O3
